US08957105B2
Representative procedure for Scheme 36A: Synthesis of ethyl 7-(3-fluoro-4-(1H-imidazol-1-yl)phenyl)-4,7-dioxoheptanoate (R═H)
Ethyl 7-(3,4-difluorophenyl)-4,7-dioxoheptanoate (351 mg) was treated with imidazole (241 mg) and pyridine (395 mg) in DMSO (3 mL) at 150° C. over 7 h with a micro-wave heating. The resultant mixture was diluted with water (12 mL) and was extracted with EtOAc (20 mL×3). After removal the solvents, the mixture was purified by flash silica gel chromatography, eluting with EtOAc, to afford the desired product -ethyl 7-(3-fluoro-4-(1H-imidazol-1-yl)phenyl)-4,7-dioxoheptanoate (279 mg, 68%) as light brown solids.

reactant | Ethyl 7-(3,4-difluorophenyl)-4,7-dioxoheptanoate | 351 mg | FC=1C=C(C=CC1F)C(CCC(CCC(=O)OCC)=O)=O | C15H16F2O4
reactant | imidazole | 241 mg | N1C=NC=C1 | C3H4N2
reactant | pyridine | 395 mg | N1=CC=CC=C1 | C5H5N
solvent | DMSO | 3 mL | CS(=O)C | C2H6OS
solvent | water | 12 mL | O | H2O
product | ethyl 7-(3-fluoro-4-(1H-imidazol-1-yl)phenyl)-4,7-dioxoheptanoate | 279 mg, 68% | FC=1C=C(C=CC1N1C=NC=C1)C(CCC(CCC(=O)OCC)=O)=O | C18H19FN2O4
